US08629270B2
[(4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-amine
To N-[(4aR,7aR)-6-(5-fluoropyrimidin-2-yl)7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (391 mg, 855 μmol) is added methanol (8.5 mL) and lithium hydroxide (179 mg, 4.27 mmol). The solution is heated to reflux for 2.5 hours under an atmosphere of nitrogen. The resulting solution is allowed to cool for a few minutes then concentrated under reduced pressure. The residue is extracted with dichloromethane (30 mL) and water (30 mL). The phases are partitioned and the aqueous phase further extracted with dichloromethane (1×30 mL). The combined dichloromethane extracts are dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified by silica gel chromatography eluting with dichloromethane/methanol, gradient from 99:1 to 90:10, to give the title compound (263 mg, 87%) as an amorphous white foam. ES/MS (m/e): 354.0 (M+H).

reactant | N-[(4aR,7aR)-6-(5-fluoropyrimidin-2-yl)7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 855 μmol, 391 mg | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C=1SC(=CC1)F | C21H17F2N5OS2
reactant | lithium hydroxide | 4.27 mmol, 179 mg | [OH-].[Li+]
solvent | methanol | 8.5 mL | CO | CH4O
product | (4aR,7aR)-6-(5-Fluoropyrimidin-2-yl)-7a-(5-fluorothiophen-2-yl)-4,4a,5,6,7,7a-hexahydropyrrolo[3,4-d][1,3]thiazin-2-amine | 263 mg, 87% | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C=1SC(=CC1)F | C14H13F2N5S2
